US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and phenol to give (1-phenoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 303(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | (1-phenoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | O(C1=CC=CC=C1)C1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C18H14N4O
